US05948911
The reaction procedure as above wherein phenethylamine is reacted with 4-(4-chloro-6-chloro-thieno-[2,3-d]-pyrimidin-2-yl)-benzoic acid methylester yields 4-(4-phenethylamino-6-chloro-thieno-[2,3-d]-pyrimidin-2-yl)-benzoic acid methylester.

reactant | phenethylamine | C(CC1=CC=CC=C1)N | C8H11N
reactant | 4-(4-chloro-6-chloro-thieno-[2,3-d]-pyrimidin-2-yl)-benzoic acid methylester | COC(C1=CC=C(C=C1)C=1N=C(C2=C(N1)SC(=C2)Cl)Cl)=O | C14H8Cl2N2O2S
product | 4-(4-phenethylamino-6-chloro-thieno-[2,3-d]-pyrimidin-2-yl)-benzoic acid methylester | COC(C1=CC=C(C=C1)C=1N=C(C2=C(N1)SC(=C2)Cl)NCCC2=CC=CC=C2)=O | C22H18ClN3O2S
